US05011825
(c) Z-Pro-Val-OH
2.63 g of Z-Pro-Val-OtBu are dissolved in 20 ml of 90% trifluoroacetic acid. The mixture is left to stand at room temperature for one hour, and is concentrated. The residue is triturated with water. The precipitate is filtered off with suction and dried over P2O5. For further purification, the product is chromatographed on silica gel in CH2Cl2 /CH30H/petroleum ether/acetic acid/water 18:1:2:0.1:0.1.

reactant | Z-Pro-Val-OtBu | 2.63 g | N1([C@H](C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C22H32N2O5
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Pro-Val-OH | N1([C@H](C(=O)N[C@@H](C(C)C)C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
